US05783522
3-Chloro-2-(4-chloro-3-dimethylaminocarbonylphenyl)-5-trifluoromethylpyridine
A solution of 3.5 g of 3-chloro-2-(4-chloro-3-chloroformylphenyl)-5-trifluoromethylpyridine in 10 ml of methylene chloride was added dropwise to 75 ml of a 40% by weight aqueous dimethylamine solution cooled to 0° C. The mixture was stirred at 0 to 5° C. for 4 hours and then diluted with 225 ml of water, after which it was extracted three times with 100 ml of tert-butyl methyl ether each time. The combined organic phases were washed twice with 100 ml of water each time, dried over sodium sulfate and concentrated. The residue was chromatographed on silica gel with cyclohexane/ethyl acetate (7:3). Yield: 2.2 g (61%) of colorless crystals; melting point: 90°-91° C.

reactant | 3-chloro-2-(4-chloro-3-chloroformylphenyl)-5-trifluoromethylpyridine | 3.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)Cl | C13H5Cl3F3NO
reactant | dimethylamine | CNC | C2H7N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 225 ml | O | H2O
product | 3-Chloro-2-(4-chloro-3-dimethylaminocarbonylphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)N(C)C | C15H11Cl2F3N2O
